US08044061B2
Synthesis of 8-(3,4-dimethoxyphenylethynyl)-3-ethyl-7-methyl-1-prop-2-ynyl-3,7-dihydropurine-2,6-dione
A mixture of 2.0 g (5.3 mmol) of 8-(3,4-dimethoxyphenylethynyl)-3-ethyl-1-prop-2-ynyl-3,7-dihydropurine-2,6-dione, potassium carbonate (0.83 g, 6 mmol) and methyl iodide (0.6 ml, 10 mmol) in dimethylformamide (20 ml) was stirred at room temperature for 0.5 h (TLC-control: dichloromethane/methanol, 9.5:0.5). The product was precipitated by addition of water (100 ml), filtered under reduced pressure, was washed with water and dried at 70° C. Further purification was achieved by column chromatography on silica gel (eluent: dichloromethane/methanol, 9.5:0.5) and subsequent crystallization from dichloromethane/petroleum ether. Yield: 1.76 g, 80% (crude product); m.p.: 221.5° C.

reactant | 8-(3,4-dimethoxyphenylethynyl)-3-ethyl-1-prop-2-ynyl-3,7-dihydropurine-2,6-dione | 5.3 mmol, 2.0 g | COC=1C=C(C=CC1OC)C#CC1=NC=2N(C(N(C(C2N1)=O)CC#C)=O)CC | C20H18N4O4
reactant | potassium carbonate | 6 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 10 mmol, 0.6 ml | CI | CH3I
reactant | dichloromethane methanol | ClCCl.CO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 8-(3,4-dimethoxyphenylethynyl)-3-ethyl-7-methyl-1-prop-2-ynyl-3,7-dihydropurine-2,6-dione | COC=1C=C(C=CC1OC)C#CC1=NC=2N(C(N(C(C2N1C)=O)CC#C)=O)CC | C21H20N4O4
